US04152511
EXAMPLE 53--Preparation of 1,3-bis-(4-carbomethoxy-2,6-dichlorophenoxymethyl)-2,4,5,6-tetrabromobenzene
In a four-liter reaction vessel, 3 liters of methyl glycol (B.P. 122°-126° C.), 221 g (1 mole) of 3,5-dichloro-4-hydroxybenzoic acid methyl ester, 40 g (1 mole) of sodium hydroxide in 40 ml of water, and 289.8 g (0.5 mole) of 1,3-bis-(bromomethyl)-2,4,5,6-tetrabromobenzene were reacted and worked up in the manner described in Example 46.

reactant | methyl glycol | 3 liters | COCCO | C3H8O2
reactant | 3,5-dichloro-4-hydroxybenzoic acid methyl ester | 1 mole, 221 g | COC(C1=CC(=C(C(=C1)Cl)O)Cl)=O | C8H6Cl2O3
reactant | sodium hydroxide | 1 mole, 40 g | [OH-].[Na+]
reactant | 1,3-bis-(bromomethyl)-2,4,5,6-tetrabromobenzene | 0.5 mole, 289.8 g | BrCC1=C(C(=C(C(=C1Br)Br)Br)CBr)Br | C8H4Br6
reactant | water | 40 ml | O | H2O
product | 1,3-bis-(4-carbomethoxy-2,6-dichlorophenoxymethyl)-2,4,5,6-tetrabromobenzene | C(=O)(OC)C1=CC(=C(OCC2=C(C(=C(C(=C2Br)Br)Br)COC2=C(C=C(C=C2Cl)C(=O)OC)Cl)Br)C(=C1)Cl)Cl | C24H14Br4Cl4O6
